US06107458
A solution of 4-[4-(7-Bromoheptyloxy)phenyl]bromobenzene (0.25 g) in a solution of tetra n-butylammonium fluoride (tetrahydrofuran solution, 1M 2.9 ml) was heated to 50° C. for 2 hours. After cooling to ambient temperature, the solution was taken up into a mixture of ethyl acetate (20 ml) and water (20 ml). The separated organic layer was washed with water, brine, and dried over magnesium sulfate. Evaporation gave a residue which was chromatographed on silica gel (30 ml) eluting with a mixture of n-hexane and ethyl acetate (100:0-97:3, V/V). The fractions which contained the objective compound were collected and evaporated a residue which was triturated with n-hexane to give 4-[4-(7-Fluoroheptyloxy)phenyl]bromobenzene (104 mg).

reactant | 4-[4-(7-Bromoheptyloxy)phenyl]bromobenzene | 0.25 g | BrCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C19H22Br2O
reactant | tetra n-butylammonium fluoride | 1M, 2.9 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 4-[4-(7-Fluoroheptyloxy)phenyl]bromobenzene | 104 mg | FCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C19H22BrFO
